US05021577
2,2-Bis(4-benzoyloxy-2,2,6,6-tetramethylpiperidin-1-oxy)propane
The title compound is prepared from 4-benzoyloxy-1-oxyl-2,2,6,6-tetramethylpiperidine and 2,2-dibromopropane according to the procedure of Example 16.

reactant | 4-benzoyloxy-1-oxyl-2,2,6,6-tetramethylpiperidine | C(C1=CC=CC=C1)(=O)OC1CC(N(C(C1)(C)C)O)(C)C | C16H23NO3
reactant | 2,2-dibromopropane | BrC(C)(C)Br | C3H6Br2
product | 2,2-Bis(4-benzoyloxy-2,2,6,6-tetramethylpiperidin-1-oxy)propane | C(C1=CC=CC=C1)(=O)OC1CC(N(C(C1)(C)C)OC(C)(C)ON1C(CC(CC1(C)C)OC(C1=CC=CC=C1)=O)(C)C)(C)C | C35H50N2O6
